US05998433
c) Synthesis of N,N-dimethyl-[5-(anthraquinone-2-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[5-(anthraquinone-2-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.197 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. After this mixture was concentrated, the resulting crystal was washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[5-(anthraquinone-2-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.197 g | CN(C)CC1=CC=2CN(CCC2O1)C(=O)C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C25H22N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[5-(anthraquinone-2-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(=O)C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | InChI=1S/C25H22N2O4.ClH/c1-26(2)14-17-11-16-13-27(10-9-22(16)31-17)25(30)15-7-8-20-21(12-15)24(29)19-6-4-3-5-18(19)23(20)28;/h3-8,11-12H,9-10,13-14H2,1-2H3;1H
